US07235572B2
In analogy to the procedure described in example 3 c], (3-chloro-6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester was reacted with 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol (example 5 c]) in the presence of triphenylphosphine and di-tert-butyl azodicarboxylate to yield (3-chloro-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester as light yellow oil.

reactant | (3-chloro-6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)O)Cl)=O | C14H16ClNO3
reactant | 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | CC=1N=C(SC1CCO)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | (3-chloro-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)Cl)=O | C27H26ClF3N2O3S
